US07547701B2
A solution of 3-cyclopropylmethanesulfonyl-2(R)-(2,2,2-trifluoro-1(S)-phenylethylamino)-propionic acid and 3-cyclopropylmethanesulfonyl-2(R)-(2,2,2-trifluoro-1(R)-phenylethylamino)-propionic acid (140 mg, 0.38 mmol), 1-aminocyclopropane-carbonitrile hydrochloride (45 mg, 0.38 mmol) HATU (173 mg, 0.46 mmol) and N-methylmorpholine (100 μL, 0.91 mmol) in anhydrous DMF (0.75 mL) was stirred at room temperature for 16 h. The reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The aqueous layer with extracted again with ethyl acetate. The combined ethyl acetate layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated. The crude product was purified by silica gel chromatography using 1:1 hexanes: ethyl acetate to give a fraction that was further purified by crystallization from diethyl ether and hexanes to give N-(1-cyanocyclopropyl)-3-cyclopropyl-methanesulfonyl-2(R)-(2,2,2-trifluoro-1(S)-phenylethylamino)propionamide (6.77 mg).

reactant | 3-cyclopropylmethanesulfonyl-2(R)-(2,2,2-trifluoro-1(S)-phenylethylamino)-propionic acid | C1(CC1)CS(=O)(=O)C[C@@H](C(=O)O)N[C@H](C(F)(F)F)C1=CC=CC=C1 | C15H18F3NO4S
reactant | 3-cyclopropylmethanesulfonyl-2(R)-(2,2,2-trifluoro-1(R)-phenylethylamino)-propionic acid | 0.38 mmol, 140 mg | C1(CC1)CS(=O)(=O)C[C@@H](C(=O)O)N[C@@H](C(F)(F)F)C1=CC=CC=C1 | C15H18F3NO4S
reactant | 1-aminocyclopropane-carbonitrile hydrochloride | 0.38 mmol, 45 mg | Cl.NC1(CC1)C#N
reactant | N-methylmorpholine | 0.91 mmol, 100 μL | CN1CCOCC1 | C5H11NO
reactant | DMF | 0.75 mL | CN(C)C=O | C3H7NO
product | N-(1-cyanocyclopropyl)-3-cyclopropyl-methanesulfonyl-2(R)-(2,2,2-trifluoro-1(S)-phenylethylamino)propionamide | 6.77 mg | C(#N)C1(CC1)NC([C@](CC1CC1)(N[C@H](C(F)(F)F)C1=CC=CC=C1)S(=O)(=O)C)=O | C19H22F3N3O3S
